US09371327B2
Step 2: 1-isobutyl-3-methyl-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione
Sodium hydride (95%, 1.74 g, 69 mmol) is suspended in 20 mL of anhydrous THF, and then a mixture of 1-isobutyl-3-methylpyrimidine-2,4(1H,3H)-dione (approx. 23 mmol) and p-toluenesulfonylmethyl isocyanide (97%,7.0 g, 35 mmol) in 20 mL of anhydrous THF is added dropwise over 80 minutes at 0° C. The mixture is stirred at room temperature for an hour after the completion of the addition, and then carefully quenched with water. The mixture is diluted with 50 mL of saturated NaHCO3, and then extracted with CH2Cl2 five times. The combined organic phase is washed with brine, and then dried with anhydrous Na2SO4. After filtration, the filtrate is evaporated to dryness under reduced pressure to give product as light brown solids, which is used in the next step without further purification. MS (ESI) m/z 222.2 [M+H]+.

reactant | Sodium hydride | 69 mmol, 1.74 g | [H-].[Na+]
reactant | 1-isobutyl-3-methylpyrimidine-2,4(1H,3H)-dione | approx. 23 mmol | C(C(C)C)N1C(N(C(C=C1)=O)C)=O | C9H14N2O2
reactant | p-toluenesulfonylmethyl isocyanide | 35 mmol, 7.0 g | C1(=CC=C(C=C1)S(=O)(=O)C[N+]#[C-])C | C9H9NO2S
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 1-isobutyl-3-methyl-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione | C(C(C)C)N1C(N(C(C=2C1=CNC2)=O)C)=O | C11H15N3O2
